Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain, shortness of breath, decreased fetal movement
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G5P3 at ___ with CP, SOB and decreased FM. She also
called her primary OB reporting bilateral foot swelling, facial
swelling. She was found to have an IUFD in triage. Denies ctx,
VB, LOF. +FM. She denies any HA, vision changes. She reports 
some
epigastric pain. 
 
Past Medical History:
PNC: 
- ___ ___ by LMP c/w ___ trimester US 
- Labs Rh +/Abs neg/Rub I/RPR NR/HBsAg neg/HIV neg/GBS unknown 
- Screening low risk panorama 
- FFS normal, anterior placenta 
- GTT NA
- U/S NA
- Issues
*) AMA 
*) h/o HSV 2 
*) obesity 
 
OBHx:
- G1 = SVD 4000g at ___
- G2 = SVD 4000g at ___
- G3 = SVD at 3360g at ___ 
- TAB x 1

 
GynHx:
- Denies fibroids, Gyn surgery
- h/o LSIL +HPV w/ benign colpo and biopsy in ___ 
 
PMH: 
*) h/o migraine headaches 
*) latent TB treated for 3 months 
 
PSH: denies 
 
Meds: PNV
 
All: NKDA 
 
 
Social History:
denies T/E/D, works as a ___ at ___
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:

___ 17:42Temp.: 98.1°F
___ 17:45BP: 171/104
___ 18:15BP: 183/110
___ 18:30BP: 177/115
___ 18:36BP: 177/109
___ 18:59BP: 107/61 (70)
___ ___: 131
Gen: A&O, comfortable
CV: RRR
PULM: CTAB
Abd: soft, gravid, nontender
Ext: no calf tenderness
 
No FH noted on TAUS 

PHYSICAL EXAM ON DISCHARGE:
Vitals: ___ 0146 BP: 127/75 HR: 91 
___ 0611 BP: 131/86 HR: 81 
___ 2201 Temp: 98.0 PO BP: 123/77 HR: 87 RR: 20 O2 sat: 97%
O2 delivery: RA Pain Score: ___ 
 General: NAD, A&Ox3
 CV: RRR
 Lungs: No respiratory distress
 Abd: soft, nontender, fundus firm below umbilicus
 Lochia: minimal
 Extremities: no calf tenderness, no edema
 
Pertinent Results:
___ 05:55PM BLOOD WBC-11.7* RBC-3.63* Hgb-12.0 Hct-33.5* 
MCV-92 MCH-33.1* MCHC-35.8 RDW-13.6 RDWSD-45.3 Plt ___
___ 06:58AM BLOOD WBC-8.9 RBC-3.68* Hgb-12.2 Hct-34.2 
MCV-93 MCH-33.2* MCHC-35.7 RDW-13.5 RDWSD-45.2 Plt ___
___ 06:33PM BLOOD WBC-9.3 RBC-4.30 Hgb-14.1 Hct-40.7 MCV-95 
MCH-32.8* MCHC-34.6 RDW-13.5 RDWSD-46.5* Plt ___
___ 06:33PM BLOOD Neuts-55.8 ___ Monos-8.8 Eos-1.7 
Baso-0.3 Im ___ AbsNeut-5.16 AbsLymp-3.04 AbsMono-0.81* 
AbsEos-0.16 AbsBaso-0.03
___ 06:33PM BLOOD ___ PTT-32.1 ___
___ 06:33PM BLOOD ___ 06:33PM BLOOD FetlHgb-0
___ 05:55PM BLOOD Creat-0.7
___ 06:58AM BLOOD Creat-0.8
___ 06:33PM BLOOD Glucose-89 Creat-0.7
___ 05:55PM BLOOD ALT-18 AST-30
___ 06:58AM BLOOD ALT-19 AST-35
___ 06:33PM BLOOD ALT-14 AST-24 LD(LDH)-329*
___ 06:33PM BLOOD cTropnT-<0.01
___ 05:55PM BLOOD UricAcd-8.2*
___ 06:58AM BLOOD UricAcd-8.3*
___ 06:33PM BLOOD UricAcd-8.0*
___ 06:33PM BLOOD Hapto-60
___ 06:33PM BLOOD TSH-3.0
___ 06:33PM BLOOD ___
___ 06:33PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-Test    
  
___ 06:33PM BLOOD PARVOVIRUS B19 DNA-Test      
___ 06:34PM URINE Hours-RANDOM Creat-56 TotProt-740 
Prot/Cr-13.2*
___ 09:40PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 06:34PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 09:00PM OTHER BODY FLUID MYCOPLASMA HOMINIS/UREAPLASMA 
CULTURE-Test      
___ 08:59PM OTHER BODY FLUID MYCOPLASMA HOMINIS/UREAPLASMA 
CULTURE-Test      

Fetal spleen- no growth
Fetal lung- no growth

Negative toxoplasmosis, CMV, RPR, 
 
Brief Hospital Course:
Ms. ___ is a ___ G5P3 at ___ who was admitted with 
intrauterine fetal demise also with pre-eclampsia, severe by BPs 
and cardiopulmonary symptoms.  With regard to the IUFD, she 
underwent induction of labor. Please see delivery note for 
further details. The following lab panel was sent: ___, CMV, 
Toxo, Parvo, ___, Anti-cardiolipin antibodies.  All of these 
results returned negative. She was seen by social work here. 
Upon presentation, she was also complaining of chest pain and 
shortness of breath. EKG showed normal sinus rhythm and her 
shorntess of breath spontaneously resolved. troponin was 
negative. She had no further issues with chest pain and 
shortness of breath.  In regard to her preeclampsia severe by 
blood pressures, she was started on magnesium seizure 
prophylaxis for maternal neuroprotection. She received 30 mg of 
PO nifedipine intrapartum to treat severe range blood pressures. 
Postpartum she was on a dose of 600 mg of labetalol TID. She had 
additional severe range blood pressures with medication 
titration. She was finally discharged home on a regimen of 
labetalol 800 mg TID and nifedipine 60 CR. On this regimen by 
postpartum day 4, her blood pressures were adequately controlled 
and she was discharged home with plan for close follow up. 

 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Mild Pain  
2.  Ibuprofen 600 mg PO Q6H:PRN Moderate Pain  
3.  Labetalol 800 mg PO Q8H  
4.  NIFEdipine (Extended Release) 60 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intrauterine fetal demise at 26 wks
preeclampsia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Routine postpartum instructions reviewed.
Patient knows to call office for any concerns
 
Followup Instructions:
___